US08791267B2
Synthesis of 1-(3-Bromo-4-methoxy-benzyl)-1H-indole (I-107, X═CH).
A solution of indole (250 mg, 2.14 mmol) in DMF (15 mL) was cooled in an ice bath. To this solution was added sodium hydride (64.3 mg, 2.68 mmol), followed by 2-Bromo-4-bromomethyl-1-methoxy-benzene (500 mg, 1.79 mmol). The reaction was warmed to room temperature and stirred overnight. To the reaction was added saturated aqueous ammonium chloride (75 mL) and the layers separated. The organic extract was washed with saturated aqueous ammonium chloride (2×75 mL), water (3×75 mL) and brine (50 mL). The extract was dried over sodium sulfate, and the solvent removed under reduced pressure. To residue was purified by flash silica gel column chromatography eluting with 1:3 hexanes: dichloromethane to give the title compound (I-107, X═CH) (490 mg, 87% yield) which was taken into further reactions.

reactant | indole | 2.14 mmol, 250 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 2.68 mmol, 64.3 mg | [H-].[Na+]
reactant | 2-Bromo-4-bromomethyl-1-methoxy-benzene | 1.79 mmol, 500 mg | BrC1=C(C=CC(=C1)CBr)OC | C8H8Br2O
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-Bromo-4-methoxy-benzyl)-1H-indole | 490 mg, 87% yield | BrC=1C=C(CN2C=CC3=CC=CC=C23)C=CC1OC | C16H14BrNO
